US04593102
3-[(4-Chlorophenyl)thio]-N-[2-(dimethylamino)ethyl]-1-pyrrolidinecarboxamid
A solution of 5.20 g (0.032 mole) of 1,1'-carbonyldiimidazole and 2.73 g (0.031 mole) of N,N-dimethylaminoethylamine in 200 ml of tetrahydrofuran was stirred at room temperature for 50 min. A solution of 5.63 g (0.0264 mole) of 3-[(4-chlorophenyl)thio]pyrrolidine (free base) in tetrahydrofuran was added and the solution was refluxed for about 66 hr. The solvent was removed in vacuo and the resulting oil was dissolved in methylene chloride. The methylene chloride solution was extracted with several portions of water and was dried over magnesium sulfate. The solvent was removed in vacuo and the resulting solid was recrystallized from methylene chloride-diethyl ether-hexane to give 6.03 g (69.7%) of white crystals, m.p. 97°-98.5° C.

reactant | 1,1'-carbonyldiimidazole | 0.032 mole, 5.20 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N,N-dimethylaminoethylamine | 0.031 mole, 2.73 g | CNN(NC)CC | C4H13N3
reactant | 3-[(4-chlorophenyl)thio]pyrrolidine | 0.0264 mole, 5.63 g | ClC1=CC=C(C=C1)SC1CNCC1 | C10H12ClNS
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 3-[(4-Chlorophenyl)thio]-N-[2-(dimethylamino)ethyl]-1-pyrrolidinecarboxamid | 6.03 g, 69.7% | ClC1=CC=C(C=C1)SC1CN(CC1)C(=O)NCCN(C)C | C15H22ClN3OS
